US04668280
First 10 ml (0.11 mole) of propionyl chloride and then 1.8 ml (0.02 mole) of pyridine in 15 ml of chloroform are added to a suspension of 3.5 g (0.01 mole) of 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylthio-phenyl)pyrazole in 30 ml of chloroform at 0° C., with stirring. A clear solution is obtained, and, when the addition has ended, stirring is continued at room temperature for 20 hours. The solution thus obtained is evaporated to dryness. For working up, the residue is taken up in 50 ml of ethanol, aqueous ammonia is added until the reaction is alkaline, the mixture is heated under reflux for 10 minutes, the volatile constituents are removed in vacuo, the residue is taken up in 100 ml of chloroform, the mixture is washed with water, then with 2N aqueous hydrochloric acid and again with water and dried over sodium sulphate and the solvent is removed in vacuo. 3.4 g (83% of theory) of 5-propionylamino-4-cyano-1-(2,6-dichloro-4-trifluoromethylthio-phenyl)-pyrazole of melting point 153° C. to 156° C. are obtained.

reactant | propionyl chloride | 0.11 mole, 10 ml | C(CC)(=O)Cl | C3H5ClO
reactant | pyridine | 0.02 mole, 1.8 ml | N1=CC=CC=C1 | C5H5N
reactant | 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylthio-phenyl)pyrazole | 0.01 mole, 3.5 g | NC1=C(C=NN1C1=C(C=C(C=C1Cl)SC(F)(F)F)Cl)C#N | C11H5Cl2F3N4S
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-propionylamino-4-cyano-1-(2,6-dichloro-4-trifluoromethylthio-phenyl)-pyrazole | 3.4 g, 83% | C(CC)(=O)NC1=C(C=NN1C1=C(C=C(C=C1Cl)SC(F)(F)F)Cl)C#N | C14H9Cl2F3N4OS
